US06110931
Step 1E: (S)-1-(7-Azabicyclo[2.2.1]hept-7-yl)-2-[3-(2-benzyloxy-1-methyl-ethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo[2,3-b]-pyridin-5-yl]-2-methylpropan-1-one
PyBOP (1.51 g, 2.89 mmol) was added to a stirred mixture of the crude (S)-2-[3-(2-benzyloxy-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-methylpropanoic acid (1.20 g, 2.63 mmol), 7-azabicyclo[2.2.1]heptane hydrochloride (0.70 g, 5.26 mmol) and triethylamine (1.47 mL, 10.5 mmol) in dichloromethane (26 mL) at ambient temperature. After approximately 12 h, the reaction mixture was poured into water/brine (1:1) and extracted with ethyl acetate (×3). The combined organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (gradient eluton; 60-75% ethyl acetate/hexanes as eluent) to give the title compound as a colourless foam (1.33 g).

reactant | PyBOP | 2.89 mmol, 1.51 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | (S)-2-[3-(2-benzyloxy-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-methylpropanoic acid | 2.63 mmol, 1.20 g | C(C1=CC=CC=C1)OC[C@@H](C)C1=C(NC2=NC=C(C=C21)C(C(=O)O)(C)C)C2=CC(=CC(=C2)C)C | C29H32N2O3
reactant | 7-azabicyclo[2.2.1]heptane hydrochloride | 5.26 mmol, 0.70 g | Cl.C12CCC(CC1)N2
reactant | triethylamine | 10.5 mmol, 1.47 mL | C(C)N(CC)CC | C6H15N
reactant | water brine | O.[Cl-].[Na+].O
solvent | dichloromethane | 26 mL | ClCCl | CH2Cl2
product | (S)-1-(7-Azabicyclo[2.2.1]hept-7-yl)-2-[3-(2-benzyloxy-1-methyl-ethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo[2,3-b]-pyridin-5-yl]-2-methylpropan-1-one | 1.33 g | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=NC2)NC(=C1[C@@H](COCC1=CC=CC=C1)C)C1=CC(=CC(=C1)C)C)=O | C35H41N3O2
